US03944675
N-(3-Fluorophenyl)-1-adamantanecarboxamide
Subject 3.6 g. (18 mmoles) of adamantane carboxylic acid chloride, 2.0 g. of m-fluoroaniline and 8.0 ml. of triethylamine to the process of Example 11. Crystallize the residue obtained thereby from a mixture of chloroform-hexane to obtain the title product, m.p. 174°-177°C.

reactant | adamantane carboxylic acid chloride | 18 mmoles | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | m-fluoroaniline | FC=1C=C(N)C=CC1 | C6H6FN
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | chloroform hexane | C(Cl)(Cl)Cl.CCCCCC
product | N-(3-Fluorophenyl)-1-adamantanecarboxamide | FC=1C=C(C=CC1)NC(=O)C12CC3CC(CC(C1)C3)C2 | C17H20FNO
